US09193693B2
3-(4-Methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(4-methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylate (126.6 mg, 0.34 mmol, 1.00 equiv) in methanol (12 mL), a solution of sodium hydroxide (72.6 mg, 1.81 mmol, 5.00 equiv) in water (2.5 mL). The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting mixture was concentrated under vacuum. The resulting mixture was sent for prop-HPLC. This resulted in 46 mg (38%) of 3-(4-methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.34 mmol, 126.6 mg, 1.00 equiv | CN1CCN(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C22H24N4O2
reactant | sodium hydroxide | 1.81 mmol, 72.6 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 2.5 mL | O | H2O
product | 3-(4-Methyl-1,4-diazepan-1-yl)-2-phenylquinoxaline-6-carboxylic acid | CN1CCN(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C21H22N4O2
